US07872128B2
Step 2: Methyl 6-chloro-2-fluoro-3-formylbenzoate
An oven-dried round bottom flask successively evacuated and purged with N2 gas was charged with drisolv THF (13.3 ml), and diisopropyl amine (6.6 ml, 46 mmol). The mixture was placed in a −78° C. dry ice/acetone bath before n-butyllithium (2.5 M in hexanes) (17 ml, 43 mmol) was added. The LDA solution was then placed in a 0° C. bath for 10 minutes, then recooling to −78° C. A solution of methyl 2-chloro-6-fluorobenzoate (3.50 g, 19 mmol) in THF (56 ml) was added to the mixture dropwise over 30 minutes. The resulting mixture was stirred at −78° C. for 2.5 hrs, warmed to −50° C. over 30 min, and stirred for 30 minutes at −50° C. The mixture was then recooled to −78° C. and drisolv dimethylformamide (14 ml, 186 mmol) was added. The resulting mixture was stirred for 30 minutes at −78° C. and then gradually warmed to RT over 1 h (note: do not stir very long after reaching RT). The reaction was quenched with 10% aqueous acetic acid, diluted with EtOAc and the layers were separated. The aqueous layer was extracted three times with EtOAc. The combined organic layers were washed with water, brine, and dried over Na2SO4, filtered and concentrated to a yellow oil, which was purified by silica gel chromatography using 12:1 hexanes/ethyl acetate to give the title compound as a light yellow oil, which solidified upon evacuation.

reactant | diisopropyl amine | 46 mmol, 6.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 43 mmol, 2.5 M, 17 ml | C(CCC)[Li]
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | methyl 2-chloro-6-fluorobenzoate | 19 mmol, 3.50 g | ClC1=C(C(=O)OC)C(=CC=C1)F | C8H6ClFO2
reactant | dimethylformamide | 186 mmol, 14 ml | CN(C=O)C | C3H7NO
solvent | THF | 56 ml | C1CCOC1 | C4H8O
solvent | THF | 13.3 ml | C1CCOC1 | C4H8O
product | Methyl 6-chloro-2-fluoro-3-formylbenzoate | ClC1=CC=C(C(=C1C(=O)OC)F)C=O | C9H6ClFO3
